US04259336
(c) 6-Chloro-2-methoxycarbonyl-benzo-[b]-thiophene-3-sulfonic acid chloride
Prepared analogous to Example 1(c) from 6-chloro-2-chlorocarbonyl-benzo-[b]-thiophene-3-sulfonic acid chloride and methanol in the presence of chloroform.

reactant | 6-chloro-2-chlorocarbonyl-benzo-[b]-thiophene-3-sulfonic acid chloride | ClC=1C=CC2=C(SC(=C2S(=O)(=O)Cl)C(=O)Cl)C1 | C9H3Cl3O3S2
reactant | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 6-Chloro-2-methoxycarbonyl-benzo-[b]-thiophene-3-sulfonic acid chloride | ClC=1C=CC2=C(SC(=C2S(=O)(=O)Cl)C(=O)OC)C1 | C10H6Cl2O4S2
